US07723360B2
1-Benzyl-4-(4-fluoro-2-nitro-phenylamino)-piperidine
2,5-Difluoro-nitrobenzene (21.5 g), 1-benzyl-4-amino-piperidine (52.3 g) and N-methyl-piperidone (100 ml) were stirred at 100° C. for 3 h. After cooling the mixture was partitioned between water and ethyl acetate and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were extracted 5 times with water, and the solvent was evaporated in vacuo. The target compound was crystallized from methanol to yield 38.7 g of the title compound as orange crystals (mp. 86-87° C.).

reactant | 2,5-Difluoro-nitrobenzene | 21.5 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 1-benzyl-4-amino-piperidine | 52.3 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | N-methyl-piperidone | 100 ml | CN1C(CCCC1)=O | C6H11NO
product | 1-Benzyl-4-(4-fluoro-2-nitro-phenylamino)-piperidine | 38.7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C18H20FN3O2
